US08222243B2
5-(Piperidine-1-carbonyl)-thiophene-2-carbaldehyde
A solution of 5-formylthiophenecarboxylic acid (9.0 g, 57.6 mmol) in toluene (100 mL) was treated with DMF (100 μL) followed by oxalyl chloride (9.9 mL, 115 mmol) and stirred at room temperature for 3 hr then evaporated in vacuo. The crude acid chloride was then dissolved in THF (100 mL), cooled in an ice bath, and treated with a THF solution (50 mL) containing triethylamine (10 mL, 72 mmol) and piperdine (6.3 mL, 63.4 mmol). The reaction was placed in a 5° C. refrigerator for 16 hr and then treated with a 1N HCl solution (200 mL) and EtOAc (200 mL). The organic portion was further washed with a saturated aqueous solution of NaHCO3 (100 mL) followed by a brine solution (100 mL), then dried over MgSO4, filtered, and evaporated in vacuo to afford product as an oil (12.87 g, 100%). 1H NMR (CDCl3) 1.64-1.71 (m, 6 H), 3.62 (br s, 4 H), 7.31 (d, J=4.0, 1 H), 7.71 (d, J=3.5, 1 H), 9.94 (s, 1 H). 13C NMR 24.6, 26.3 (br), 44.2 (br), 49.0 (br), 128.8, 135.4, 144.8, 146.1, 162.5, 183.3. LC/MS 4.78 min, [M+1]+ 224.

reactant | 5-formylthiophenecarboxylic acid | 57.6 mmol, 9.0 g | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | oxalyl chloride | 115 mmol, 9.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 72 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | piperdine | 63.4 mmol, 6.3 mL | N1CCCCC1 | C5H11N
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
product | 5-(Piperidine-1-carbonyl)-thiophene-2-carbaldehyde | 12.87 g, 100% | N1(CCCCC1)C(=O)C1=CC=C(S1)C=O | C11H13NO2S
